Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lightheadedness, nausea
 
Major Surgical or Invasive Procedure:
NA

 
History of Present Illness:
MR. ___ is a ___ yo man with a past medical history of MI 
with
prior stent who presented to ___ on ___ with chest pain,
dizziness, nausea and emesis. He was given Zofran and ASA 325. 
On
arrival in the ED had HR in ___ and then bradyed down to 
___.
Patient was transferred to ___ ___ given concern for Mobitz I
vs Mobitz II second degree AV block. 
 
In the ED...  
- Initial vitals:  97T, BP 175/73, HR 60, RR 16, 96% on RA
- EKG: ventricular rate 62, Mobitz 1, left axis deviation, no ST
changes or T wave inversions     
- Labs/studies notable for:  Negative Trop 0.01; Hgb 11.3
- Patient was given:  no medications in the ED
- Vitals on transfer:  43 141/55 17 99% RA 
 
On admission to the cardiology service, he endorses the above
history. Reports that he has a h/o MI in ___ and had stent 
place
at ___ around ___ with Dr. ___. Later had
episodes of lightheadedness and possibly syncope and was worked
up with further stress testing at ___ but no further
stents were placed. HAs a h/o HTN and reports that has tried
multiple medications but often has side effects including
lightheadedness, near-syncope. currently on Lisinopril. Denies
h/o CHF or DM.  

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  
 
On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.  
 

 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Hypertension (on home Lisinopril)   
2. CARDIAC HISTORY  
- PERCUTANEOUS CORONARY INTERVENTIONS: Cath @ ___ 
with
1 stent placed about ___ years ago
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- HTN
- BPH
- Asthma
 
Social History:
___
Family History:
Father died at age ___ suddenly in sleep.
DM in multiple family members. 
 
Physical Exam:
VITALS:  ___ ___ Temp: 98.0 PO BP: 163/80 R Lying HR: 59
RR: 18 O2 sat: 95% O2 delivery: Ra 
GENERAL: Well-developed, elderly man. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 9 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: Few wheezes bilaterally. Resp were unlabored, no 
accessory
muscle use. No crackles, rhonchi.  
ABDOMEN: Nontender, somewhat distended. 
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Abrasion to right elbow with bandage, multiple ecchymoses
on upper extremities   
PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
___ 11:19AM   GLUCOSE-108* UREA N-17 CREAT-1.1 SODIUM-137 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-22 ANION GAP-13
___ 11:19AM   estGFR-Using this
___ 11:19AM   cTropnT-0.01
___ 11:19AM   WBC-7.2 RBC-3.80* HGB-11.3* HCT-34.4* MCV-91 
MCH-29.7 MCHC-32.8 RDW-13.0 RDWSD-42.4
___ 11:19AM   NEUTS-80.0* LYMPHS-13.4* MONOS-5.2 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-5.79 AbsLymp-0.97* AbsMono-0.38 
AbsEos-0.04 AbsBaso-0.03
___ 11:19AM   PLT COUNT-216
___ 11:19AM   ___ PTT-27.6 ___
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
Mr. ___ is a ___ year old male with a past medical history of 
MI (___) s/p stent (___) who presented to ___ with cc 
lightheadedness and nausea with mild chest pain and found to be 
bradycardic to ___ so transferred to ___ given concern for 
Mobitz I vs II second degree heart block. At ___ EKG showed 
Mobitz I and telemetry was not concerning for Mobitz II. EKG 
showed no ST changes and trops were negative. Patient maintained 
on home lisinopril for BP control as inpatient. On day of 
discharge, pt is hemodynamically stable. He will go home with 
Ziopatch for cardiac monitoring. 

====================
ACUTE ISSUES:
====================
#Bradycardia, Mobitz I second degree block: Patient presented 
from ___ with Mobitz I seen on EKG. AT ___ EKG confirmed 
Mobitz I and left axis deviation but no ST changes or T wave 
inversions and troponin was negative making ACS unlikely. On 
admission to cardiology patient was placed on telemetry, which 
confirmed Mobitz I. He did have bradycardia down to HR ___ 
overnight while sleeping but remained asymptomatic. Repeat EKG 
confirmed Mobitz I without ST changes. TTE showed no valvular 
disease, normal EF, and mild LVH. On ___ patient is 
asymptomatic. Echocardiogram was completed and pending at the 
time of discharge. Plan for Zio Patch for 2 weeks and follow up 
with outpatient PCP.

#CAD: H/o MI in ___ s/p stent placed around ___ ___ per patient report. Patient reportedly had 
chest pain on presentation to ___ morning of ___ although 
has not had chest pain since then. At ___, trops were negative 
and EKG without ST changes. Pt was continued on home ASA. Home 
pravastatin was discontinued and atorvastatin 80mg PO daily was 
started for better lipid control. On day of discharge patient 
denies chest pain, SOB, diaphoresis, nausea.

#HTN. During stay at ___ patient hypertensive to 160s 
systolic. Home lisinopril 10mg daily was continued. Patient 
reports having adverse events on other BP meds such as CCBs and 
beta blockers were held in setting of bradycardia.

====================
CHRONIC ISSUES:
====================
#BPH
- continued home finasteride
- continued home tamsulosin

#Asthma
- albuterol PRN 
====================
TRANSITIONAL ISSUES:
====================
[ ] Please follow up the Ziopatch results after two weeks (___).

- New Meds: Atorvastatin 80mg PO daily
- Stopped/Held Meds: Pravastatin 20mg PO daily
- Changed Meds: NA
- Follow-up appointments: Dr. ___ (PCP)
- Post-Discharge Follow-up Labs Needed: NA
- Incidental Findings: NA
- Discharge weight: 74.4kg
- Discharge creatinine: 1.1

# CODE: Full
# CONTACT: Daughter, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Tamsulosin 0.4 mg PO QHS 
3. Finasteride 5 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Albuterol Inhaler 1 PUFF IH Q4H PRN 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Albuterol Inhaler 1 PUFF IH Q4H PRN  
3.  Aspirin 81 mg PO DAILY  
4.  Finasteride 5 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  
7.  cane

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Second degree heart block, ___ I

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a slow heartbeat that caused your 
symptoms of lightheadedness.

What was done for me while I was in the hospital?  
- In the hospital we monitored your heart rate and rhythm 
overnight. From the monitor and from an EKG we saw you have a 
type of heart block called Mobitz I. This type of heart rhythm 
generally does not require medication or intervention. 
- We also performed a chest x-ray to look at your heart and 
lungs. The chest x-ray was normal and did not show anything 
concerning.
- We also performed and echocardiogram that showed you have a 
normal ejection fraction, no valvular disease, and mild left 
heart enlargement
- We continued your home medications while you were here, 
including lisinopril, aspirin, finasteride and tamzulosin.
- We changed your cholesterol medication from pravastatin to 
atorvastatin 80mg to better control your lipid levels.

What should I do when I leave the hospital?  
- When you leave the hospital you will have a Zio Patch heart 
monitor. This monitor will record your heart rate and rhythm 
over the course of 2 weeks. You should leave the monitor on all 
day, every day during this 2 week period. You can shower with 
the heart monitor.
-  You should continue taking your lisinopril 10 mg every day 
for your blood pressure
- You should continue your finasteride and tamsulosin for your 
prostate
- You should continue to take your aspirin 81mg every day
- You should STOP taking pravastatin 20mg and START taking 
atorvastatin 80mg every day
- If you have any chest pain, difficulty breathing, or pass out, 
you should come back to the hospital to be evaluated

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___